### PR TITLE
Changelog for version 1.15.0

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

changelog + rm deprecated + reduce warnings

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: classical/mathcomp_extra.v [hunk 1]
```diff
@@ -83,3 +83,15 @@ Proof. by move=> F0; elim/big_rec : _ => // i x Pi; apply/ler_wnDl/F0. Qed.
...
   #|` A| = (\sum_(i <- A) 1)%N.
 Proof. by rewrite big_seq_fsetE/= sum1_card cardfE. Qed.
+
+(**************************)
+(* MathComp 2.6 additions *)
+(**************************)
+
+(* PR in progress: https://github.com/math-comp/math-comp/pull/1515 *)
+Lemma intrD1 {R : pzRingType} (i : int) : (i + 1)%:~R = i%:~R + 1 :> R.
+Proof. by rewrite intrD. Qed.
```
Comment (proux01) [inline classical/mathcomp_extra.v:93]: @affeldt-aist This broke MathComp CI (e.g.: https://github.com/math-comp/math-comp/actions/runs/21024509077/job/60451421951?pr=1520). We should really add infotheo in the CI here.

Comment (affeldt-aist) [reply classical/mathcomp_extra.v:93]: Will it fix it if I do an update of infotheo's master? I can do is as soon as tomorrow.

Comment (proux01) [reply classical/mathcomp_extra.v:93]: Yes, we indeed need an overlay on infotheo (since https://github.com/math-comp/math-comp/pull/1515 didn't fix MathComp CI)
